US03939169
Sodium hydride (1.32g.) was added portionwise under an atmosphere of nitrogen during 30 minutes, to a stirred solution of 3-hydroxypyridine (2.85g.) in dry dimethylsulphoxide (28ml.) cooled to below 25°C. When reaction ceased, 1,6-dibromohexane (3.66g.) was added dropwise with stirring and cooling, and the resulting mixture was stirred a further 31/2 hours. The mixture was poured into ice-water, and the precipitated product was filtered off and crystallised from petroleum ether (b.p.60°- 80°C.), to give 1,6-bis-pyrid-3-yloxyhexane, m.p. 85°C.

reactant | Sodium hydride | 1.32g | [H-].[Na+]
reactant | 3-hydroxypyridine | 2.85g | OC=1C=NC=CC1 | C5H5NO
reactant | 1,6-dibromohexane | 3.66g | BrCCCCCCBr | C6H12Br2
solvent | dimethylsulphoxide | 28ml | CS(=O)C | C2H6OS
product | 1,6-bis-pyrid-3-yloxyhexane | N1=CC(=CC=C1)OCCCCCCOC=1C=NC=CC1 | C16H20N2O2
